US06630004B1
Synthesis of α-N-(4-Aminophenyl)amino-ε-caprolactam Dihydrochloride
2 g (8 mmol) of α-N-(4-nitrophenyl)amino-ε-caprolactam are partially dissolved in 40 ml of 95° ethanol in a 150 ml three-necked flask equipped with a thermometer and a reflux condenser. 2 g of palladium-on-charcoal (10% active and 50% moisture) are then introduced, followed by 20 ml of cyclohexene. The mixture is brought to reflux for 3 hours and is then cooled, before being filtered through celite. After having run approximately 6 ml (˜3.5 eq) of 5N hydrochloric acid onto the filtrate, the latter is evaporated to dryness and the residue is taken up in ethanol and precipitated from acetone. After filtration, 1.9 g of a white product are obtained, i.e. a final yield of 81%.

reactant | α-N-(4-nitrophenyl)amino-ε-caprolactam | 8 mmol, 2 g | [N+](=O)([O-])C1=CC=C(C=C1)NC1C(=O)NCCCC1 | C12H15N3O3
reactant | cyclohexene | 20 ml | C1=CCCCC1 | C6H10
reactant | hydrochloric acid | 5N, approximately 6 ml, ˜3.5 eq | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium-on-charcoal | 2 g | [Pd] | Pd
product | α-N-(4-Aminophenyl)amino-ε-caprolactam Dihydrochloride | yield of 81% | Cl.Cl.NC1=CC=C(C=C1)NC1C(=O)NCCCC1 | InChI=1S/C12H17N3O.2ClH/c13-9-4-6-10(7-5-9)15-11-3-1-2-8-14-12(11)16;;/h4-7,11,15H,1-3,8,13H2,(H,14,16);2*1H
